US08202879B2
In a mixture of tetrahydrofuran (2 ml) and water (0.1 ml) were dissolved 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline (IV-1, 50 mg) and 2-(1-piperidyl)ethoxyamine dihydrochloride (36.5 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed sequentially with aqueous saturated sodium bicarbonate solution, and aqueous sodium chloride solution, and dried over magnesium sulfate. After concentration, the residue was purified by chromatography (eluting with hexane:ethyl acetate=2:3) using an amino column, and further re-purified by thin layer chromatography to obtain 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(2-(1-piperidyl)ethoxyimino)quinazoline (V-1, 13 mg).

reactant | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline | 50 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C=O | C22H15ClFN3O2
reactant | 2-(1-piperidyl)ethoxyamine dihydrochloride | 36.5 mg | Cl.Cl.N1(CCCCC1)CCON
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 0.1 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(2-(1-piperidyl)ethoxyimino)quinazoline | 13 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC=2C=CC(CC12)=NOCCN1CCCCC1 | C28H29ClFN5O2
